US07622583B2
To a stirred suspension of Fe (376 mg, 6.73 mmol) in glacial AcOH (10 mL) at 80° C. was added a solution 4-chloro-N-[5-chloro-2-(2-nitro-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (700 mg, 1.34 mmol) in AcOH (5 mL) over 15 min. After complete addition, the mixture was stirred for 2 h and the progress of the reaction was followed by LCMS. Upon consumption of reactants, the reaction mixture was cooled to room temperature, diluted with EtOAc, and filtered through a pad of Celite. The filtrate was concentrated under reduced pressure and residue was partitioned with aqueous NaHCO3 and EtOAc. The organic portion was separated and the aqueous portion was extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to provide N-[2-(2-amino-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide. MS m/z: 556.0 (M+Na).

reactant | 4-chloro-N-[5-chloro-2-(2-nitro-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 1.34 mmol, 700 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)[N+](=O)[O-])=O)C(F)(F)F | C21H14Cl2F3N3O6S
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
catalyst | Fe | 6.73 mmol, 376 mg | [Fe] | Fe
product | N-[2-(2-amino-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | NC1=C(C(=O)C2=NC=C(C=C2N(S(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)COC)Cl)C=CC=C1 | C21H16Cl2F3N3O4S
